US05693641
To 2-methylthio-4,6-dichloro-5-nitropyrimidine, a compound of formula (A), (5.0 g, 20.8 mmol) in 200 mL acetonitrile at 0° C. was added cesium carbonate (8.82 g, 27.1 mmol) followed by the addition of 3-(dimethylaminocarbonyl)phenol (3.44 g, 20.8 mmol), a compound of formula (B), and the reaction mixture was stirred for 16 hours. The volatiles were evaporated and the residue chromatographed on silica gel (CH2 Cl2 /ethyl acetate, 7:12) to afford 6.3 g (83% yield) of 2-methylthio-4-chloro-5-nitro-6-(3-(dimethylaminocarbonyl)phenoxy)pyrimidine, a compound of formula (C).

reactant | 2-methylthio-4,6-dichloro-5-nitropyrimidine | CSC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])Cl | C5H3Cl2N3O2S
reactant | cesium carbonate | 27.1 mmol, 8.82 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(dimethylaminocarbonyl)phenol | 20.8 mmol, 3.44 g | CN(C(=O)C=1C=C(C=CC1)O)C | C9H11NO2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 2-methylthio-4-chloro-5-nitro-6-(3-(dimethylaminocarbonyl)phenoxy)pyrimidine | 6.3 g, 83% yield | CSC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])OC1=CC(=CC=C1)C(=O)N(C)C | C14H13ClN4O4S
